US07153968B2
Step 1: 2,5-Dibromo-3-methyl-pyridine
5-Bromo-3-methyl-pyridin-2-ylamine (1.0 eq.) was added portionwise to aqueous HBr (48%; 1.0M). The mixture was stirred 1 h at rt then cooled to −20° C. Bromine (2.8 eq.) was added dropwise followed by a aqueous solution of NaNO2 (1.0M; 2.7 eq.). The final mixture was warmed to rt and stirred for 2 h. The mixture was cooled back to −20° C. then aqueous NaOH (1.0M; 3.0 eq.) was added dropwise over 1 h. The final mixture was warmed to rt and extracted with Et2O (2×). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated to afford the title compound as a yellow solid.

reactant | 5-Bromo-3-methyl-pyridin-2-ylamine | 1.0 eq. | BrC=1C=C(C(=NC1)N)C | C6H7BrN2
reactant | HBr | 1.0M | Br | BrH
reactant | Bromine | 2.8 eq. | BrBr | Br2
reactant | NaNO2 | 1.0M, 2.7 eq. | N(=O)[O-].[Na+]
reactant | NaOH | 1.0M, 3.0 eq. | [OH-].[Na+]
product | 2,5-Dibromo-3-methyl-pyridine | BrC1=NC=C(C=C1C)Br | C6H5Br2N
